Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Morphine / Atovaquone
 
Attending: ___.
 
Chief Complaint:
Depression with suicidal ideation and attempt
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ man with HIV/AIDS (last CD4 count 124 in 
___, likely medication non-compliance, CNS toxoplasmosis with 
right-sided thalamic pain syndrome, depression with previous 
suicide attempts. He was transferred from the ___ 
___ (___) emergency department for continuity of 
care at ___ after reported suicidal ideation with attempted 
suicide by walking into traffic on the morning of presentation. 
Notably, the patient refuses to speak to the medical team in 
___ and ___, have vital signs taken, and to take 
medications. This note thus largely reflects the written record.
.
The patient was taken to the ___ ___ by ambulance after a 
bystander called ___ after hearing the patient crying and saying 
"I can't live like this." In the ___ ___, ___ paperwork 
was filed, and the patient was given levetiracetam 1000 mg IV 
bolus for R arm tremor, which is chronic per ___ records. He 
was transferred to the ___ ___ for continuity of care. Initial 
___ vitals were: T 97.8F, HR 53, BP 99/53, RR 18, O2 95% RA. He 
was A&Ox2 (not date). He is documented to report worsening 
depression, suicidal ideation, an attempt to walk into traffic, 
and wanting help to prevent self harm. The cranial CT scan 
shwoed no new lesions, stable thalamic calcifications decreased 
in size compared to ___ CT. However, a ___ MRI showed 
___ enhancement, with DDx of immune reconstitution vs. 
worsening toxoplasmosis.

 
Past Medical History:
#HIV/AIDS: Diagnosed in ___. Last labs ___: CD4 125, viral 
load undetectable.
#CNS toxoplasmosis: Diagnosed ___ on CT in left 
thalamocapsular region. Treated in ___. Residetual 
right-sided weakness and sensory loss.
#Major Depression: s/p multiple suicide attempts, thought to be 
linked to pain.
#HIV Dementia: Neuropsych testing in ___ revealed broad 
cognitive impairment in executive function, memory, and 
language.
#Seizure disorder: Witnessed complex partial seizure in 
neurology clinic in ___. No frank epileptiform activity on 
multiple EEGs. Prophylaxis started in ___ during toxoplasmosis 
treatment, with Rx of levetiracetam 1000 mg po qday.
#Chronic pain: s/p MVA at age ___
#History of neprholithiasis: Lithotripsy and L ureteral stent 
placement in ___. Lithotripsy and stent placement ___.
#Chronic otitis media (> ___ yrs)
#Pruitis Nodularis: Resolved s/p HIV treatment
 
Social History:
___
Family History:
Per OMR: Left ___ at age ___. Unknown family history. Father may 
have died from cancer.
 
Physical Exam:
Vitals refused. Non tachypenic.
Gen/Behavior: Well-appearing man resting with eyes closed, 
sometimes with television on a religious channel. Refuses to 
talk to the team, have vitals taken, or take any medications. 
When asked questions, modal response is "I don't know" or "No 
se." Shows selective volitional action, such as sitting up and 
saying, "No don't take that" after oxycodone and $2800 in cash 
were discovered in his clothing or manipulating the TV remote.
Pulm: Breathing comfortably.
Neuro: Alert. Unable to test orientation. Able to open eyes, 
mouth (CNVII).

 
Pertinent Results:
___ 06:21AM   PLT COUNT-196
___ 06:21AM   NEUTS-48.7* ___ MONOS-7.9 EOS-1.9 
BASOS-1.1
___ 06:21AM   WBC-3.4* RBC-4.19* HGB-13.3* HCT-39.0* MCV-93 
MCH-31.6 MCHC-34.0 RDW-13.9
___ 06:21AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:21AM   TSH-0.85
___ 06:21AM   CALCIUM-8.1* PHOSPHATE-3.0 MAGNESIUM-2.1
___ 06:21AM   ALT(SGPT)-18 AST(SGOT)-28 ALK PHOS-85 TOT 
BILI-0.9
___ 06:21AM   GLUCOSE-112* UREA N-9 CREAT-0.7 SODIUM-138 
POTASSIUM-4.1 CHLORIDE-105 TOTAL CO2-27 ANION GAP-10
___ 06:38AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-4* PH-8.0 
LEUK-NEG
___ 06:38AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 06:38AM URINE  COLOR-Yellow APPEAR-Clear SP 
___
.
CT Head: Slight interval decrease of the calcified lesions at 
the left thalamus/ cerebral peduncle compared to ___. 
No new suspicious lesions. 
EKG: Reported as (not in chart): NSR HR 58 Normal axis and 
intervals. Diffuse J point elevation. No acute changes.
 
Brief Hospital Course:
___ man with history of HIV/AIDS (last CD4 124 in ___, CNS 
toxoplasmosis with right-sided thalamic pain syndrome, 
depression, and multiple previous suicide attempts transferred 
from ___ ___ after suicidial ideation and suicide attempt, 
admitted for medical evaluation.
.
# Organic Dementia, AIDS Dementia Complex, CNS Toxoplasmosis:
The patient was admitted to the medicine service from the ___ on 
a ___ due to suicidal ideation with reported attempt to 
walk into traffic. However, evaluation by psychiatry and the 
patient's outpatient cognitive neurologist for years (Dr. 
___ resulted in the assessment that dementia, likely due to 
HIV infection and CNS toxoplasmosis, was the dominant process. 
Medical evaluation for other causes of mental status change was 
negative. Repeat head CT on admission showed no new lesions, 
with thalamic calcifications smaller compared to ___ study. 
Laboratory testing showed no metabolic derangements, normal TSH, 
normal AST and ALT, and negative RPR. Notably, the patient 
failed to take his HIV medications consistently despite multiple 
trials of his medications so they were stopped. He also refused 
prophylactic medications for toxoplasma. The patient had 
previously taken levetiracetam for seizure prophylaxis (please 
see Seizure Disorder below).  He was set up with ID and 
Neurology for follow-up to reconsider initiation of HAART after 
transition to a stable unit. 
. 
# Depression/Suicidal Ideation:
The patient has chronic depression with multiple past suicide 
attempts. He has prescriptions for several psychoactive 
medications (citalopram, duloxetine, quetiapine, olanzapine) but 
presented with likely medication non-compliance, confirmed with 
the patient's ex-partner and her son. On ___ presentation, the 
patient reported suicidal ideation, an attempt to walk into 
traffic, and fear of self harm in the context acute homelessness 
for ___ days after eviction by his ex-partner. Since 
presentation, the patient has denied having suicidal ideation at 
presentation and denied telling any care providers that he had 
active or passive suicidality. The patient was initially 
admitted on ___, but ___ was deemed inappropriate 
given likely organic dementia secondary to AIDS and CNS 
toxoplasmosis. he was assessed by psychiatry, with conclusion 
that he had no capacity to make the decision to leave the 
hospital against medical advice given recent confusion, 
inability to remember recent events, and inability to seek 
health care without assistance. Given the patient's history of 
mood lability, prior suicide attempts, and inability to care for 
himself, the patient was placed on 1-on-1 monitoring and 
encouraged to resume home medications.  After admission, the 
patient has consistently denied ever having suicidal ideation 
immediately before admission or reporting suicidal ideation to 
any care providers. The patient was assessed by his outpatient 
cognitive neurologist and psychiatry, with conclusion that the 
patient had no active suicidal ideation and that disinhibition 
could be attributed to organic dementia. He was discontinued on 
1:1 monitoring. However, due to noted deficits in cognition, the 
patient was again deemed to be without capacity to leave the 
hospital against medical advice (see Dementia above).  
Outpatient psych medications were definitively stopped and he 
was started on seroquel, olanzapine, and continued on lorazepam 
as needed for agitation. 
.
# HIV Infection:
The patient's last HIV labs are from ___, with CD4 of 125 and 
undetectable viral load. However, the patient's ex-partner 
reported chronic medication non-compliance. During 
hospitalization, the patient refused to take HIV ARVs and 
prophylactic medications. Consultation by the patient's 
outpatient HIV doctor, ID Fellow Dr. ___, resulted in 
the recommendation for interim discontinuation of HIV ARVs due 
to inconsistent use while continuing prophylactic medications 
for toxoplasmosis(clindamycin, pyrimethamine, leucovorin) and 
PCP ___ (dapsone).  Set up with ID follow up.  
.
# Social Situation:
The patient was evicted from his ex-partner's home after her 
family deemed him to be too great a social and emotional burden 
on the family, especially given the ex-partner's own health 
problems. The patient has no known family in the area, as his 
relatives are thought to be in ___ and ___. Further, the 
patient's pharmacy reports suspension of prescription coverage.
.
# CNS Toxoplasmosis:
Please see the HIV section above. The patient refused all HIV 
medications during admission. Although an admission head CT 
showed decreased size of thalamic calcifications, worsening 
toxoplasmosis could not be excluded on imaging alone.
.  
# Seizures:
The written record contains a witnessed partial complex seizure 
(see Dr. ___, ___ during a neurology clinic visit. 
However, frank no frank epileptiform activity has been seen on 
multiple EEGs. Levetiracetam was initiated in ___ by infectious 
disease on initiation of treatment for toxoplasmosis. On 
admission, the patient had been given 1000 mg levetiracetam in 
the ___ ___. However, he refused seizure medications after 
admission. Evaluation of the patient's mental status was 
persistently difficult due to non-cooperation. However, he 
showed no clinical signs of seizures while on 1-to-1 monitoring. 
Psychiatry recommendations included consideration of stopping 
levetiracetam due to potential impacts on mood lability. The 
medication was stopped after discussion with neurology and his 
mood improved. he continues to have chronic intermittent right 
arm tremors that are stable.
.
# Chronic Pain, Post-traumatic and Thalamic
The patient has documented chronic pain, both due to thalamic 
toxoplasmosis and post-traumatic pain after a remote motor 
vehicle accident. During hospitalization, he frequently refused 
most medications for neurogenic pain, only occasionally 
requesting oxycodone and lyrica and Ativan.
.
# GERD/Duodenitis
Per record, the patient has a history of GERD with question of 
duodenitis. He refused ranitidine during hospitalization.
.  
# Lung Disease, Tobacco Abuse
The patient was offered nicotine lozenges, which he refused. He 
asked to be allowed to go outside to smoke, which was denied 
based on safety concerns. He further refused his home 
fluticasone and salmeterol (Advair).  This was stopped.  

# Acute on chronic otitis media: pt has a hx of ear infections. 
He complained of ear pain on ___, and exam showed concern for 
developing infection in left ear. He was started on azithro, but 
pt refused to take the medicaitons. Sx were monitored and abx 
reoffered daily.

# Guardianship: After a multidicipliary meeting of psych, ID, 
and the primary team, with added recommendations from cognitive 
neurologist and the patient's PCP it was decided the pt lacked 
judgement abilities to care for himself and make medical 
decisions. Court date for attaining guardianship is ___. After 
he receives guardianship, he can be discharged to a SNF.  He was 
appointed a guardian by the court and discharged to a SNF with 
plan for transition to longer-care institution thereafter (i.e 
HIV patient housing).  
 
Medications on Admission:
The patient's medication compliance is uncertain on admission. 
The following medications were confirmed by his pharmacy on 
reconciliation:

ALBUTEROL SULFATE 90 mcg HFA Aerosol Inhaler - 2 puffs ih qid 
prn  
ATAZANAVIR - 300 mg Capsule - 1 Capsule(s) by mouth once a day  
CITALOPRAM [CELEXA] 40 mg Tablet 1 Tablet(s) PO daily  
CLINDAMYCIN HCL 300 mg Capsule 2 Capsule(s) PO TID  
DAPSONE: 100 mg PO daily for PCP prophylaxis 
___ [TRUVADA] 200 mg-300 mg Tablet PO daily  

FAMOTIDINE 20 mg Tablet PO q12 hours  
FLUTICASONE-SALMETEROL 500 mcg-50 mcg/Dose Disk with Device 1 
puff(s) IH twice a day  
LEUCOVORIN CALCIUM - 25 mg Tablet PO daily  
LEVETIRACETAM [KEPPRA] 1,000 mg Tablet PO BID  
LOPINAVIR-RITONAVIR [KALETRA] 50 mg-200 mg Tablet 2 Tablet(s) PO 
BID  
LORAZEPAM - 1 mg Tablet - 1 Tablet(s) by mouth at bedtime  
MIRTAZAPINE - 45 mg Tablet - 1 Tablet(s) by mouth at bedtime  
OLANZAPINE [ZYPREXA] - 20 mg Tablet - 1 Tablet(s) by mouth at  
bedtime  
OXYCODONE - 30 mg Tablet - 2 Tablet(s) by mouth every 3 hours as 
 
needed for right-sided body pain. Fill ___  
PREGABALIN [LYRICA] - 300 mg Capsule - 1 Capsule(s) by mouth  
twice a day  
PYRIMETHAMINE - 25 mg Tablet - 3 Tablet(s) by mouth once a day  
QUETIAPINE [SEROQUEL] - 300 mg Tablet - 1 Tablet(s) by mouth at  

bedtime  
QUETIAPINE [SEROQUEL] - 100 mg Tablet - 1 Tablet(s) by mouth q6  

hours prn agitation  
ZOLPIDEM [AMBIEN] - 10 mg Tablet - 1 Tablet(s) by mouth at  
bedtime  
 
Discharge Medications:
1. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation Q6H (every 6 hours) as needed for shortness 
of breath or wheezing.  
2. clindamycin HCl 150 mg Capsule Sig: Four (4) Capsule PO Q8H 
(every 8 hours).  
3. dapsone 100 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. famotidine 20 mg Tablet Sig: One (1) Tablet PO Q12H (every 12 
hours).  
5. leucovorin calcium 25 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. lorazepam 1 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for agitation.  
7. Zyprexa 20 mg Tablet Sig: One (1) Tablet PO at bedtime.  
8. oxycodone 60 mg Tablet Extended Release 12 hr Sig: One (1) 
Tablet Extended Release 12 hr PO every four (4) hours as needed 
for pain.  
9. pregabalin 75 mg Capsule Sig: Four (4) Capsule PO BID (2 
times a day).  
10. pyrimethamine 25 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
11. quetiapine 100 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day) as needed for agitation.  
12. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
13. prochlorperazine maleate 10 mg Tablet Sig: One (1) Tablet PO 
Q6H (every 6 hours) as needed for nausea.  
14. zolpidem 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime) 
as needed for insomnia.  
15. nicotine (polacrilex) 2 mg Lozenge Sig: One (1) Lozenge 
Buccal Q2H (every 2 hours) as needed for nicotine craving.  
16. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO TID 
(3 times a day).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Depressive disorder with suicidal ideation, attempt

Scondary:
Human Immunodeficiency Virus
Human Immunodeficiency Virus dementia
Central Nervous System Toxoplasmosis
Seizure disorder
Thalamic pain syndrome

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital because of worsening 
depression. While you were in the hospital, we had psychiatrists 
evaluate you.  We also gave you medicines to treat some of the 
infections associated with HIV.  After reviewing your case with 
psychiatry, we felt it was best that you go to an extended care 
facility after you leave the hospital.
.
We made the following medication changes:
(1) Please stop atazanavir
(2) Please stop truvada
(3) Please stop kaletra
(4) Please stop celexa
(5) Please stop advair 
(6) Please stop keppra (you don't need this anti-seizure 
medication).
(7) Please stop ambien
(8) Start oxycodone 60 mg every 4 hours as needed for pain. 
(9) Start compazine and omeprazole as needed for nausea 
(10) Start nicotine lozenges as needed for nicotine cravings
(11) Start colace to help with bowel movements 
 
Followup Instructions:
___